US06693116B2
c) 6-Methoxy-3-phenyl-pyridin-2-yl-amine
A mixture of 330 mg (1.625 mmol) 3-bromo-6-methoxy-pyridin-2-yl-amine, 396 mg (3.25 mmol) phenylboronic acid, 1 ml 2N Na2CO3 and 59 mg (0.08 mmol) dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium (II) dichloromethane adduct in 10 ml dioxane was heated to 110° C. for 2 h. The mixture was concentrated, diluted Na2CO3 aq. was added and extracted 2× with 100 ml diethyl ether. The combined organic phases were dried with MgSO4 and evaporated. The residue was purified by flash column chromatography on silica-eluting with a gradient of hexane/ethyl acetate to yield 230 mg (71%) of the title compound.

reactant | 3-bromo-6-methoxy-pyridin-2-yl-amine | 1.625 mmol, 330 mg | BrC=1C(=NC(=CC1)OC)N | C6H7BrN2O
reactant | phenylboronic acid | 3.25 mmol, 396 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2N, 1 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium (II) dichloromethane adduct | 0.08 mmol, 59 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 6-Methoxy-3-phenyl-pyridin-2-yl-amine | 230 mg, 71% | COC1=CC=C(C(=N1)N)C1=CC=CC=C1 | C12H12N2O
